Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I came in dead drunk"
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with depression and 
alcohol use disorder who presented to the ___ on ___ via EMS 
because she was found laying down in the lobby of a ___ 
___ while intoxicated with alcohol, later 
expressed passive SI and depression.

Per Dr. ___ consult note from ___: "Ms. 
___ states that she wishes she would "fall asleep 
and never wake up again" due to not being able to see a future 
for herself.  She notes she is homeless, sick of drinking/being 
an alcoholic, has lost most of her friends; she simply does not 
identify any positive aspects of the future.  She denies active 
SI; does not have a plan to harm herself.  Ms. ___ 
feels depressed, anxious, is with poor sleep, poor 
concentration, anhedonia; she denies poor appetite.  She states 
she has been depressed chronically (since young ___, and does 
not note any recent change in her level of depression/depressive 
symptoms.

Ms. ___ states she was admitted to ___ for 
detox/treatment of depression about 1 month previously, noted 
this stay was helpful to her because of the addition of Vistaril 
and Seroquel to her medication regimen (her Paxil remained at 
the same dose).  Following discharge she was sent to a sober 
house, but she had a very negative experience there (was 
"filthy, with rats and cockroaches" and roommate had male guest 
over in their room).  She relapsed shortly thereafter, ending 
her longest period of sobriety of ___ weeks.  Ms. ___ 
___ expressed being tired of drinking and wants to detox 
again; she likes SMART Recovery meetings/would be willing to go 
to these regularly but does not like AA meetings."

On interview at this time, Ms. ___ states lately she has 
felt depressed and anxious in the setting of staying at the 
___. She describes it as very a uncleanly and 
unsafe environment. She states someone was stabbed at the 
shelter, and lots of tenants use drugs. As such she has had 
difficulty sleeping recently because she has been scared while 
in the shelter. Denies decreased need for sleep. She states she 
has had suicidal thoughts for a long time since she was ___ years 
old, but they have worsened recently. She describes feeling as 
though she
is at the end of the line; stating she is a homeless alcoholic 
and she has tried countless detoxes, rehabs, and treatments 
which haven't helped. 

She states she feels better currently, denying depressed mood 
and suicidal thoughts. Also denies homicidal thoughts. She does 
describe symptoms of withdrawal including sweats, tremor, and 
agitated, anxious feeling. Denies confusion or AVH.  
 
Psych ROS: As above in HPI. General ROS: As above in HPI. 
Otherwise negative

___ Course:
Per RN report, presented intoxicated, but cooperative with no 
behavior issues.

Medication admins:
___ 07:45 PO Diazepam - CIWA protocol 10 mg  
___ 11:23 PO Diazepam - CIWA protocol 10 mg   
___ 11:23 PO FoLIC Acid 1 mg 
___ 11:23 PO Thiamine 100 mg 
___ 18:25 PO Diazepam - CIWA protocol 10 mg 

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: MDD, alcohol use disorder, anxiety disorder
-Hospitalizations: ___ ___, ___ recently
-Partial hospitalizations/IOP: IOP at ?Arbour
-Psychiatrist: None
-Therapist: None
-Medication trials: Trazodone
-Suicide attempts: Intentional OD on Elavil in ___, caused PEA
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Endorses physical/verbal/emotional abuse by parents,
cousin, friend committed suicide when 14 
-Access to weapons: Denies

Past medical history: Per Dr. ___ (___),
confirmed with patient:
-Denies any history of or active medical problems
-Denies history of head trauma, seizure

Medications: Per Dr. ___ (___), confirmed with
patient:
-Paxil 40 qam
-Vistaril 50 TID PRN anxiety
-Quetiapine 50 mg qam + 50 q 3pm + 100 qHS

Allergies: NKMA

Substance use history: Per Dr. ___ (___),
confirmed with patient:
-Tobacco: Denies current/past use
-Alcohol: Endorses current heavy use, 1 bottle of wine + 2 nips
of vodka daily; notes problematic/heavy drinking did not begin
until age ___
-Marijuana: Denies current/past use
-Heroin/Opioids: Denies current/past use
-Benzos: Denies current/past use
-Cocaine: Denies current/past use
-Detox: ___, one other time in ___ (___.)
-Other Drugs: Denies

Forensic history: Per Dr. ___ (___), confirmed
with patient:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
 
Social History:
Personal and Social History: Per Dr. ___ 
(___), confirmed with patient:
-Born/Raised: ___ at age ___ moved to ___ friend 
committed suicide when ___
-Family: Estranged from mother, father, sister
-Relationship status/Children: Never married, never had 
children, had serious relationships in past but not in one 
currently
-Primary Supports: "Nobody"
-Housing: Homeless, currently staying at ___ 
near ___
-Education: Graduated HS, attended ___ for ___ 
year, ___ for ___ years, and graduated from 
___ extension program in ___ with a concentration in 
humanities
-Employment/Income: Previously worked as ___ at 
___, ___ at ___, currently receives SSDI 
-Spiritual: Denies
-Military History: ___
Family History:
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient:
-Psychiatric Diagnoses: Mother and father with depression/
anxiety, thinks sister is borderline (in her opinion)
-Substance Use Disorders: Maternal and paternal grandfathers 
with
alcohol use disorder
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
VS: T-98.3  BP-129/94  HR-92  RR-16  O2Sat-97 

General: Middle-aged female in NAD. Well-nourished,
well-developed. Appears younger than stated age.
HEENT: Normocephalic, atraumatic. PERRL 4mm>3mm, EOMI. 
Oropharynx
clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No apparent rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: patellar and brachial 2+ 
and
symmetrical. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: MOWB without errors
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration and ___ recall. intact to recent and
past history
  Fund of knowledge: consistent with education. Intact to last 3
presidents.
  Calculations: $1.75 = "7 quarters"
  Abstraction: apples+oranges="fruit". watch+ruler="tools to
measure". bike+train="transportation"
  Visuospatial: not assessed
  Speech: slightly increased rate. normal volume and tone.
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: ___ year old woman who appears younger than stated
age. Bright pink hair pulled back in pony tail. Wearing bright
colored jewelry and hospital gown. Appears somewhat disheveled. 
 Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
 Mood and Affect: "Okay" / euthymic, full range, appropriate to
situation, congruent with mood
 Thought Process: tangential, some thought blocking
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia
 Judgment and Insight: poor/poor

PHYSICAL EXAMINATION ON DISCHARGE:

Vital Signs: T 98.3, BP 118/83, HR 85, RR 16, SpO2 93% on RA  

Mental Status:
-Appearance: Caucasian woman, appearing younger than stated age,
with dark pink hair mixed with some black/white hair, wearing
hospital pants and gown, fair grooming, fair hygiene, in no 
apparent distress
-Behavior: Sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged.
-Mood: "okay"
-Affect: Mood-congruent, bright, full-range, appropriate to 
situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: No evidence of AVH, not appearing to be
attending to internal stimuli
-Insight: Fair (patient is aware and upfront about her alcohol
use disorder)
-Judgment: Fair (patient is seeking help, is interested in
medication to reduce alcohol craving, but is not interested in 
PHP program or outpatient follow-up with psychiatrist/therapist)

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 01:57AM   WBC-6.6 RBC-3.96 HGB-12.8 HCT-37.9 MCV-96 
MCH-32.3* MCHC-33.8 RDW-12.5 RDWSD-43.3

___ 01:57AM   NEUTS-48.0 ___ MONOS-9.7 EOS-4.5 
BASOS-0.5 IM ___ AbsNeut-3.17 AbsLymp-2.44 AbsMono-0.64 
AbsEos-0.30 AbsBaso-0.03

___ 01:57AM   GLUCOSE-92 UREA N-20 CREAT-0.7 SODIUM-142 
POTASSIUM-5.5* CHLORIDE-101 TOTAL CO2-27 ANION GAP-14

___ 01:57AM   ALT(SGPT)-14 AST(SGOT)-24 ALK PHOS-100 TOT 
BILI-0.2

___ 01:57AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 01:57AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG

___ 01:57AM URINE  UCG-NEGATIVE

___ 01:57AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD*

___ 01:57AM URINE  RBC-1 WBC-11* BACTERIA-NONE YEAST-NONE 
EPI-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary  
agreement (Section 10 & 11) and  that legal status remained in  
place throughout the admission.  Ms. ___ was placed 
on 15  minute checks status on admission and remained on that 
level of observation throughout while being unit restricted. She 
did not require behavioral or chemical restraint.

2. PSYCHIATRIC:
#) On presentation to the ___ on ___, Ms. ___ 
reported passive SI without intent or plan, but was unable to 
identify any protective factors or positive elements in her 
future. She endorsed feeling depressed and anxious, with poor 
sleep, poor concentration, and anhedonia. She described having 
been chronically depressed since her ___, without any recent 
change in her depressive symptoms. 

On admission to the inpatient psychiatric unit during the night 
of ___, Ms. ___ endorsed feelings of depression 
and anxiety in the context of living at the ___ 
___, which the patient felt was unsanitary and unsafe. She 
described inability to sleep well due to feeling unsafe. Patient 
endorsed suicidal thoughts since a young age, but said that 
these thoughts had worsened recently, due to her many 
psychosocial stressors (struggle with alcohol and multiple 
failed detoxes, lack of social supports, being homeless, and 
negative experiences at the sober house and shelter where she 
lived after her most recent detox at beginning ___.

The patient's home medications were continued: paroxetine 40mg 
PO daily; quetiapine 50mg PO qAM + 50mg PO q3PM + 100mg PO qHS; 
and hydroxyzine 50mg PO TID PRN anxiety. 

During the admission interview with the primary team, the 
patient was disheveled lying in bed, calm but not cooperative 
with the interview; affect was dysthymic, stable, congruent with 
stated "awful" mood. Thought content was absent for suicidal 
ideation. Patient was unable to give narrative of events prior 
to arrival to the hospital and was endorsing withdrawal symptoms 
(fatigue, nausea, GI discomfort, tremors). She denied suicidal 
thoughts or thoughts of self harm at the time. Interview was 
limited due to patient's inability to participate. 

Patient's presentation was most consistent with substance 
related or substance induced mood disorder. Despite her history 
of previous affective episodes in the absence of alcohol use, 
she has not experienced depressive episodes without alcohol as a 
contributing component for many years. 

Following the completion of detox protocol, patient's affect 
appeared bright and full range, congruent with stated mood of 
"better." She denied suicidal ideation nor thoughts of 
self-harm. She communicated future-oriented thought content, 
such as planning to acquire a new cellphone from her friend in 
order to start calling sober houses immediately after discharge. 


Team and SW offered to provide referral to a partial hospital 
program, as well as follow-up with outpatient psychiatrist and 
therapist. Patient declined these, citing lack of success with 
partial hospital programs or therapists in the past. Patient 
expressed that she would like to follow-up with her primary care 
provider ___, ___ (at ___ 
___), who has been prescribing Ms. ___ 
medications.

Ms. ___ was deemed ready and safe for discharge on 
___. However, the patient stated that she was "not ready" 
for discharge at that time (despite engaging in a meaningful 
conversation about being discharged and her post-discharge plans 
the day prior). She denied any worsening of affective symptoms; 
rather, she cited ongoing concern about unstable housing. She 
did  not identify her risk of relapse as a reason for remaining 
admitted, stating "I need more time to find a place to stay." 
Ms. ___ submitted a Medicare discharge appeal on 
___, which was denied on ___. She was discharged from ___ on 
___.

3. SUBSTANCE USE DISORDERS:
#) Alcohol Use Disorder
Diazepam CIWA protocol was initiated upon presentation to the ___ 
on ___. Patient last scored on CIWA scale on ___, so CIWA 
protocol was discontinued on ___. Folic acid 1mg PO daily, 
thiamine 100mg PO daily, and multivitamins with minerals 1 tab 
daily were given during the admission. Patient was started on 
naltrexone 50mg PO daily on ___ for alcohol craving. She denied 
experiencing any side effects from this medication and indicated 
that she would continue taking it after discharge.

Despite her stated intent to remain sober after discharge, 
patient demonstrated limited insight into her drinking behavior; 
she was unable to identify triggers for drinking, nor coping 
skills to resist urges to imbibe. However, she did express her 
willingness to attend SMART recovery groups as an outpatient 
(though, she declined the offer for her team to print out the 
location/times of these groups). As stated above, patient's 
primary focus throughout her hospitalization appeared to be 
securing stable housing. Offered to arrange aftercare (e.g. PHP, 
IOP, outpatient referrals) for patient; however, she declined 
these referrals stating that it would be too difficult to attend 
said appointments while trying to find housing. 

Patient was provided with contact information for the ___ 
___ House, the ___ Program at ___, and the ___ 
___, where she can access additional mental health and 
substance use resources. Patient was amenable to and capable of 
accessing these resources following discharge.

4. MEDICAL
#) No acute medical illnesses

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
declined attending most groups offered on the unit, and declined 
individual structured activities proposed to her during 
one-on-one meetings with occupational therapy staff.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Ms. ___ gave verbal and written permission for the 
team to contact her primary care provider, ___, PA (at 
___). She was 
provided with a summary of Ms. ___ presentation 
to the ___ ___ and an update of her progress  since 
admission to Deac4, and Ms. ___ provided collateral 
information and/or treatment recommendations.

Ms. ___ also gave written permission for the team 
to obtain the discharge summary from her recent admission to the 
___ detox program (at the end of ___ with 
transition to the ___ Adult PHP (on ___.

#) INTERVENTIONS
- Medications: Naltrexone 50mg PO daily was started; home 
medications (paroxetine, quetiapine, and hydroxyzine) were 
continued at their pre-admission doses
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow-up appointment scheduled 
with PCP, ___, PA (at ___ - 
___).

INFORMED CONSENT: Naltrexone
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
 and risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the  
patient's right to decide whether to take this medication as  
well as the importance of the patient's actively participating  
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.

RISK ASSESSMENT& PROGNOSIS
On presentation, Ms. ___ was evaluated and felt to 
be at increased risk of harm to self due to reported worsening 
depression in the setting of ongoing alcohol abuse.
Ms. ___ static risk factors noted at that time 
include history of 4 suicide attempts (4 ODs per collateral), 
lethality of previous  attempt (cardiac arrest, per collateral), 
chronic mental illness, recent discharge from an inpatient 
psychiatric unit, history of abuse/trauma, history of substance 
abuse, history of self-injurious behavior, reported family 
history of depression, Caucasian ethnicity, elderly age, single 
relationship status, limited social supports, unemployment, 
homelessness.

The modifiable risk factors identified were as such: active 
substance use disorder, acutely intoxicated, lack of engagement 
with outpatient psychiatric/substance use treatment, 
hopelessness, lack of purpose, active self-injurious behaviors, 
closed mindedness, recent financial loss, limited coping skills. 
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments (addition of naltrexone for 
alcohol cravings), psychotherapeutic interventions  (OT groups, 
SW groups, individual therapy meetings with  psychiatrists, and 
presence on a social milieu environment.  

Ms. ___ is being discharged with several protective 
factors, female gender, lack of suicidal ideation, consistent 
outpatient follow-up and positive relationship with PCP, 
___, no access to lethal weapons, 
reality-testing ability.

Overall, based on the totality of our assessment at  this time, 
Ms. ___ does not manifest symptoms of acute 
psychiatric illness; she does not exhibit symptoms consistent 
with decompensated affective or psychotic illness. She is not at 
an acutely elevated risk of harm to herself nor a danger to 
others. She no longer requires ongoing inpatient 
hospitalization. 

Furthermore, Ms. ___ possesses the preserved 
capacity to  engage in a meaningful discussion about safety 
planning in the  event that symptoms of depression worsen or 
suicidal or  homicidal ideation arise in the future (e.g. 
patient reported that she would go to the nearest emergency room 
or call ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 40 mg PO DAILY 
2. QUEtiapine Fumarate 50 mg PO BID qAM and q3PM 
3. QUEtiapine Fumarate 100 mg PO QHS 
4. HydrOXYzine 50 mg PO TID:PRN anxiety 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Naltrexone 50 mg PO DAILY Alcohol cessation  
3.  HydrOXYzine 50 mg PO TID:PRN anxiety  
4.  PARoxetine 40 mg PO DAILY  
5.  QUEtiapine Fumarate 50 mg PO BID qAM and q3PM  
6.  QUEtiapine Fumarate 100 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent episode, moderate
R/o substance-induced mood disorder
Alcohol use disorder
Unspecified anxiety disorder

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

Vital Signs: T 98.3, BP 118/83, HR 85, RR 16, SpO2 93% on RA  

Mental Status Exam:*****

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.

It was a pleasure to have worked with you, and we wish you the 
best of health.

Optional Instructions:
We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings near your area:
-Alcoholic Anonymous: ___
-SMART Recovery: ___/
-Narcotics Anonymous: ___

 
Followup Instructions:
___